US04719032
0.5 g of 35% KH dispersion is added to a solution of 0.9 g of trans-4-[2-(trans-4-n-propylcyclohexyl)ethyl]-cyclohexanol in 250 ml of THF and stirring is carried out for two hours under reflux. Then 0.6 g of n-iodobutane is added and stirring is carried out for two hours at room temperature. Excess potassium hydride is destroyed with water. Extraction is carried out with methylene chloride, drying is carried with Na2SO4 and the solvent evaporated off. The residue left behind is worked up chromatographically. 1-(trans-4-n-butoxycyclohexyl)-2-(trans-4-n-propylcyclohexyl)ethane is obtained.

reactant | trans-4-[2-(trans-4-n-propylcyclohexyl)ethyl]-cyclohexanol | 0.9 g | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)O | C17H32O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 1-(trans-4-n-butoxycyclohexyl)-2-(trans-4-n-propylcyclohexyl)ethane | C(CCC)O[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)CCC | C21H40O
